US07834034B2
A solution of 3-methyl-4-nitro-benzoic acid methyl ester (24.99 g, 128.1 mmol) and N,N-dimethylformamide dimethyl acetal (40.0 mL, 300 mmol) was heated at 140° C. for 22.5 h. After cooling to rt, the reaction mixture was concentrated and the residue was crystallized from MeOH to give a purple solid. This solid was dissolved in THF (500 mL) and water (500 mL), and sodium periodate (62.62 g, 292.8 mmol) was added followed by additional sodium periodate (15.6 g, 72.9 mmol) two hours later. After stirring at rt for an additional 1 h, the reaction mixture was filtered through Celite washing with EtOAc (2 L). The filtrate was washed with saturated NaHCO3 (600 mL) and the organic layer was dried over Na2SO4. After filtration, the filtrate was concentrated and the residue was passed through a pad of silica gel, washing with CH2Cl2/hexanes (75%-100%). The filtrate was concentrated and dried to give 3-formyl-4-nitro-benzoic acid methyl ester as yellowish solid. MS (EI): cal'd 210.0 (MH+), exp 210.2 (MH+).

reactant | 3-methyl-4-nitro-benzoic acid methyl ester | 128.1 mmol, 24.99 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C9H9NO4
reactant | N,N-dimethylformamide dimethyl acetal | 300 mmol, 40.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | sodium periodate | 292.8 mmol, 62.62 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 72.9 mmol, 15.6 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 3-formyl-4-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)[N+](=O)[O-])C=O)=O | C9H7NO5
